US07550451B2
4-(17β-Hydroxy-3-oxoestra-4,9-dien-11β-yl)benzaldehyde is reacted according to Example 5 in THF with NBS to form 4-(4′-bromo-17β-hydroxy-3-oxoestra-4,9-dien-11β-yl)benzaldehyde and purified by chromatography. The purified product is incorporated directly into the oximization.

reactant | 4-(17β-Hydroxy-3-oxoestra-4,9-dien-11β-yl)benzaldehyde | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(CCC3=C1[C@H](C2)C2=CC=C(C=O)C=C2)=O | C25H28O3
reactant | NBS | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | THF | C1CCOC1 | C4H8O
product | 4-(4′-bromo-17β-hydroxy-3-oxoestra-4,9-dien-11β-yl)benzaldehyde | BrC1=C2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)C[C@@H](C3=C2CCC1=O)C1=CC=C(C=O)C=C1)O | C25H27BrO3
